* Simplified Schmitt Trigger
Vin in 0 PULSE(0 5 0 1u 1u 1m 2m)
E1 out 0 VALUE = { V(in) > 2.5 ? 5 : 0 }
Rload out 0 10k
.tran 1u 5m

.control
set noaskquit
save all
run
.endc

.end

